US08022205B2
To a solution of (5-bromo-4-methyl-pyrimidin-2-yl)-bis-(4-methoxy-benzyl)-amine (1.28 g) obtained through the reaction of 5-bromo-4-methyl-pyrimidin-2-ylamine and 4-methoxybenzyl chloride in DMF in the presence of 60% oily sodium hydride, and boric acid triisopropyl (1.94 ml) in THF/toluene (4.2 ml/17 ml), at −78° C., n-butyl lithium-hexane solution (1.6 M, 4.5 ml) was added dropwise, followed by stirring at −78° C. for 1 hour. To the reaction mixture, water (10 ml) was added, and a colorless precipitate resulting from the addition of concentrated HCl (500 μl) was filtered, to obtain 2-{bis-(4-methoxy-benzyl)-amino}-4-methyl-pyrimidin-5-boronic acid. Then, the resulting colorless precipitate (787 mg), pinacol (248 mg) and magnesium sulfate (248 mg) were stirred in dichloromethane (10 ml) for 1 hour, followed by filtering off insolubles, and the filtrate was concentrated under reduced pressure, to obtain bis-(4-methoxy-benzyl)-[4-methyl-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyrimidin-2-yl]-amine (275 mg, 29%) as a colorless amorphous.

reactant | 5-bromo-4-methyl-pyrimidin-2-ylamine | BrC=1C(=NC(=NC1)N)C | C5H6BrN3
reactant | 4-methoxybenzyl chloride | COC1=CC=C(CCl)C=C1 | C8H9ClO
reactant | sodium hydride | [H-].[Na+]
reactant | boric acid triisopropyl | 1.94 ml | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | THF toluene | 4.2 ml | C1CCOC1.C1(=CC=CC=C1)C
solvent | DMF | CN(C)C=O | C3H7NO
product | (5-bromo-4-methyl-pyrimidin-2-yl)-bis-(4-methoxy-benzyl)-amine | 1.28 g | BrC=1C(=NC(=NC1)N(CC1=CC=C(C=C1)OC)CC1=CC=C(C=C1)OC)C | C21H22BrN3O2
